US04851526
1-[(Cyclopropyl)methyl]-3-pyrrolidinemethanol methanesulfonate
In a manner similar to Preparation 45, react 1-cyclopropylmethyl-3-pyrrolidinemethanol with methanesulfonic anhydride to obtain the title compound.

reactant | 1-cyclopropylmethyl-3-pyrrolidinemethanol | C1(CC1)CN1CC(CC1)CO | C9H17NO
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | 1-[(Cyclopropyl)methyl]-3-pyrrolidinemethanol methanesulfonate | CS(=O)(=O)OCC1CN(CC1)CC1CC1 | C10H19NO3S
